US07482345B2
5-(2,6-difluorophenyl)-2-[(2,4-difluorophenyl)thio]-6H-pyrido[1,2-b]pyridazin-6-one
To a solution of NaH (20 mg, 0.83 mmol) and 2,4-difluorobenzenethiol (74 mg, 0.51 mmol), in THF 2 mL was added 2-chloro-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one (50 mg, 0.17 mmol) as a solution in THF (1 mL). The reaction was complete in 10 min and concentrated in vacuo. The crude residue was purified via silica gel chromatography (EtOAc/CH2Cl2/MeOH) to yield the title compound.

reactant | NaH | 0.83 mmol, 20 mg | [H-].[Na+]
reactant | 2,4-difluorobenzenethiol | 0.51 mmol, 74 mg | FC1=C(C=CC(=C1)F)S | C6H4F2S
reactant | 2-chloro-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one | 0.17 mmol, 50 mg | ClC=1C=CC=2N(N1)C=CC(C2C2=C(C=CC=C2F)F)=O | C14H7ClF2N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-(2,6-difluorophenyl)-2-[(2,4-difluorophenyl)thio]-6H-pyrido[1,2-b]pyridazin-6-one | FC1=C(C(=CC=C1)F)C=1C(C=CN2N=C(C=CC21)SC2=C(C=C(C=C2)F)F)=O | C20H10F4N2OS
